US05891359
4) Synthesis of 4'-n-nonanoyloxybiphenyl-4-carboxylic acid chloride
4-n-Nonanoyloxybiphenyl-4-carboxylic acid (5.0 g) was added to thionyl chloride (10 g), and N,N-dimethylformamide in a very small amount was added to the mixture. The resulting mixture was refluxed for 4 hours. The unaltered thionyl chloride was removed by evaporation to give the desired compound (5.2 g).

reactant | 4-n-Nonanoyloxybiphenyl-4-carboxylic acid | 5.0 g | C(CCCCCCCC)(=O)OC1(CC=C(C=C1)C1=CC=CC=C1)C(=O)O | C22H28O4
reactant | thionyl chloride | 10 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-n-nonanoyloxybiphenyl-4-carboxylic acid chloride | 5.2 g | C(CCCCCCCC)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C22H25ClO3
